US05003089
A mixture of 670 g (5 moles) of 2-methoxymethyl2-methyl-1,3-propanediol, 479 g (5.5 moles) of 85% strength methoxyacetaldehyde and 250 ml of chloroform was heated with 10 g of pyridinium p-toluenesulfonate under a water separator until water no longer separated off. The solution was deionized using a mixed-bed ion exchanger, the solvent was stripped off under reduced pressure and the residue was subjected to fractional distillation under reduced pressure. 864 g (91% yield) of 2,5-dimethoxymethyl-5-methyl-1,3-dioxane of boiling point 95° C./10 mbar were obtained.

reactant | 2-methoxymethyl2-methyl-1,3-propanediol | 5 moles, 670 g | COCC(CO)(CO)C | C6H14O3
reactant | methoxyacetaldehyde | COCC=O | C3H6O2
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
reactant | pyridinium p-toluenesulfonate | 10 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | water | O | H2O
product | 2,5-dimethoxymethyl-5-methyl-1,3-dioxane | 864 g, 91% yield | COCC1OCC(CO1)(C)COC | C9H18O4
